US06380218B1
2-(3-Carbamoyl-phenoxy)-N-(2-chloro-benzyl)-nicotinamide
To a stirred solution of 2-(3-Carbamoyl-phenoxy)-N-(2-chloro-benzyl)-nicotinic acid (0.300 grams, 1.25 mmole), o-chlorobenzylamine (0.195 grams, 1.375 mmole), and 1-hydroxybenzotriazole hydrate (0.203 grams, 1.50 mmole) in dry dimethylformamide (3 ml) was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.311 grams, 1.63 mmole) and stirred over night. The mixture poured into 100 ml water and extracted with ethyl acetate. The combined extracts were washed with 1 N NaOH, water and brine, dried over Na2SO4, filtered and concentrated to give a white solid that was purified by chromatography on silica gel eluting with 7% methanollmethylene chloride. Recrystalization from ethyl acetate/hexane gave a white solid (0.239 g). M.P. 153-155° C.; Anal. calcd. for C20H16N3O3Cl: C, 62.91; H, 4.22; N, 11.01. Found: C, 62.92; H, 4.30; N, 11.09.

reactant | 2-(3-Carbamoyl-phenoxy)-N-(2-chloro-benzyl)-nicotinic acid | 1.25 mmole, 0.300 grams | C(N)(=O)C=1C=C(OC2C(C(=O)O)=CC=CN2CC2=C(C=CC=C2)Cl)C=CC1 | C20H17ClN2O4
reactant | o-chlorobenzylamine | 1.375 mmole, 0.195 grams | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | 1-hydroxybenzotriazole hydrate | 1.50 mmole, 0.203 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 1.63 mmole, 0.311 grams | Cl.C(C)N=C=N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-(3-Carbamoyl-phenoxy)-N-(2-chloro-benzyl)-nicotinamide | 0.239 g | C(N)(=O)C=1C=C(OC2=C(C(=O)NCC3=C(C=CC=C3)Cl)C=CC=N2)C=CC1 | C20H16ClN3O3
